US06747023B1
1-[(6-Chloronaphthalen-2-yl)sulfonyl]-4-[3-hydroxy-4-(pyridin-4-yl)benzoyl]piperazine hydrochloride
In dichloromethane (1 ml), boron tribromide (115 μl) was dissolved, followed by the dropwise addition of a solution of 1-[(6-chloronaphthalen-2-yl)sulfonyl]-4-[3-methoxy-4-(pyridin-4-yl)benzoyl]piperazine, which had been obtained in Example A-30, in dichloromethane (dichloromethane: 4 ml) at an external temperature of about −78° C. While heating gradually to room temperature, the resulting mixture was stirred for 23 hours. After dichloromethane and water were added to the reaction mixture and the resulting mixture was stirred for a while, sodium bicarbonate was added to make alkaline the reaction mixture, which was separated into an organic layer and a water layer. From the water layer, another organic layer was extracted with dichloromethane. These organic layers were combined together, washed with saturated aqueous NaCl solution and then dried over anhydrous sodium sulfate. The residue obtained by distilling off the solvent under reduced pressure was purified by chromatography on a silica gel column (dichloromethane˜3% methanol—dichloromethane). The crudely purified product so obtained was dissolved in tetrahydrofuran. Solution of hydrochloride in ethanol was added to the resulting solution to solidify the same. The resulting solid was collected by filtration and then dissolved in a mixed solvent of water and methanol. After the removal of the insoluble matter by filtration, the filtrate was distilled under reduced pressure, whereby the title compound (36 mg, 30%) was obtained.

reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]-4-[3-methoxy-4-(pyridin-4-yl)benzoyl]piperazine | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=CC(=C(C=C1)C1=CC=NC=C1)OC)=O | C27H24ClN3O4S
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydrochloride | Cl | ClH
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | boron tribromide | 115 μl | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
product | 1-[(6-Chloronaphthalen-2-yl)sulfonyl]-4-[3-hydroxy-4-(pyridin-4-yl)benzoyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=CC(=C(C=C1)C1=CC=NC=C1)O)=O | InChI=1S/C26H22ClN3O4S.ClH/c27-22-4-1-20-16-23(5-2-19(20)15-22)35(33,34)30-13-11-29(12-14-30)26(32)21-3-6-24(25(31)17-21)18-7-9-28-10-8-18;/h1-10,15-17,31H,11-14H2;1H
